US07947692B2
A magnetically stirred mixture of 7-Methoxy-5-methylsulfanyl-thiazolo[5,4-d]pyrimidin-2-ylamine (500 mg, 2.19 mmol) in tetrahydrofuran (20 mL) under a nitrogen atmosphere at 25° C. was treated with sodium hydride (60% suspension in mineral oil, 265 mg, 6.58 mmol). The reaction mixture was stirred at 50° C. for 1 h. At this time, the reaction was cooled to room temperature and was treated with N,N-diisopropylethylamine (850 mg, 6.58 mmol) and 4-hydroxy-4-[3-(trifluoromethyl)phenyl]piperidine-1-carbonyl chloride (810 mg, 2.63 mmol). The reaction mixture was stirred at room temperature for 3 d. At this time, the reaction was concentrated in vacuo, poured into water and extracted with ethyl acetate. The organics were washed with a 2N aqueous hydrochloric acid solution and a saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 98:2 methylene chloride/methanol) afforded 4-hydroxy-4-[3-(trifluoromethy)phenyl]piperidine-1-carboxylic acid (7-methoxy-5-methylsulfanyl-thiazolo[5,4-d]pyrimidin-2-yl)-amide (375 mg, 34%) as a red solid. LRMS for C20H20F3N5O3S2 (M+H)+ at m/z=499. The NMR spectrum obtained on the sample is compatible with its structure.

reactant | 7-Methoxy-5-methylsulfanyl-thiazolo[5,4-d]pyrimidin-2-ylamine | 2.19 mmol, 500 mg | COC=1C2=C(N=C(N1)SC)SC(=N2)N | C7H8N4OS2
reactant | sodium hydride | 6.58 mmol, 265 mg | [H-].[Na+]
reactant | N,N-diisopropylethylamine | 6.58 mmol, 850 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-hydroxy-4-[3-(trifluoromethyl)phenyl]piperidine-1-carbonyl chloride | 2.63 mmol, 810 mg | OC1(CCN(CC1)C(=O)Cl)C1=CC(=CC=C1)C(F)(F)F | C13H13ClF3NO2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 4-hydroxy-4-[3-(trifluoromethy)phenyl]piperidine-1-carboxylic acid (7-methoxy-5-methylsulfanyl-thiazolo[5,4-d]pyrimidin-2-yl)-amide | 375 mg, 34% | COC=1C2=C(N=C(N1)SC)SC(=N2)NC(=O)N2CCC(CC2)(C2=CC(=CC=C2)C(F)(F)F)O | C20H20F3N5O3S2
